US05254592
3-Benzamido-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine
3-Amino-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine (3.0 g, 9.2 mmol) was dissolved in tetrahydrofuran (10 mL) and cooled to 10° C. Benzoyl chloride (1.3 g, 9.2 mmol) in tetrahydrofuran (10 mL) was added dropwise. Triethylamine (0.93 g, 9.2 mmol) in tetrahydrofuran (5 mL) was added and the mixture warmed to room temperature and stirred for 2 hours. The mixture was submitted to standard aqueous acidic workup. The crude solid obtained was recrystallized from acetonitrile to yield the title product as a white solid in 80% yield, m.p. 253° C. Mass spectral and NMR data were consistent with the proposed structure.

reactant | 3-Amino-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine | 9.2 mmol, 3.0 g | NC=1C=NC=CC1OC1=C(C=C(C=C1)C(CC)(C)C)C(CC)(C)C | C21H30N2O
reactant | Benzoyl chloride | 9.2 mmol, 1.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Triethylamine | 9.2 mmol, 0.93 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-Benzamido-4-(2,4-bis(1,1-dimethylpropyl)phenoxy)-pyridine | 80% yield | C(C1=CC=CC=C1)(=O)NC=1C=NC=CC1OC1=C(C=C(C=C1)C(CC)(C)C)C(CC)(C)C | C28H34N2O2
